US06103907
Ethyl 2-(N,N-diethylamino)-3-(4-hydroxyphenyl)propionate
0.3 ml of acetic acid and 0.5 ml of acetaldehyde were added to a solution of 491 mg of DL-tyrosine ethyl ester hydrochloride in 5 ml of methanol. Sodium cyanoborohydride (126 mg) was added thereto under ice-cooling, followed by stirring of the mixture at room temperature for 2 hours. After the reaction, the reaction mixture was concentrated. The residue was dissolved in ethyl acetate and water, and then the ethyl acetate layer was separated. The extract was washed with an aqueous sodium bicarbonate solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methanol:dichloromethane=1:20) to obtain 420 mg of the desired compound as a syrup.

reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | acetaldehyde | 0.5 ml | C(C)=O | C2H4O
reactant | DL-tyrosine ethyl ester hydrochloride | 491 mg | Cl.C(C)OC(C(N)CC1=CC=C(C=C1)O)=O
reactant | Sodium cyanoborohydride | 126 mg | C(#N)[BH3-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
product | Ethyl 2-(N,N-diethylamino)-3-(4-hydroxyphenyl)propionate | 420 mg | C(C)N(CC)C(C(=O)OCC)CC1=CC=C(C=C1)O | C15H23NO3
